US07329652B2
To a solution of 100 mg of N-{4-[5-Amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-phenyl}-acetamide (0.291 mMol, 1 equiv) in 5 mL of NMP was added 100 mg of cis-2,6-dimethylpiperazine (0.877 mMol, 3.0 equiv). The stirred solution was heated to 250° C. via microwave irradiation for 15 min. The reaction mixture was concentrated under vacuum by pouring and then redissolved in 5 mL of CH2Cl2 and 5 mL of DMF. To the stirred solution was added sequentially 1 mL of Hunig's base and 100 μL of acetic anhydridide. After 3 hr at 25° C., the reaction mixture was concentrated to a dark oil and purified by flash chromatography (EtOAc), yielding 15 mg of N-(4-{1-[2-(4-Acetyl-3,5-dimethyl-piperazin-1-yl)-pyridin-4-yl]-5-amino-1H-[1,2,4]triazol-3-ylamino}-phenyl)-acetamide (0.0323 mMol, 11% yield) as a yellow solid.

reactant | N-{4-[5-Amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-phenyl}-acetamide | 0.291 mMol, 100 mg, 1 equiv | NC1=NC(=NN1C1=CC(=NC=C1)Cl)NC1=CC=C(C=C1)NC(C)=O | C15H14ClN7O
reactant | cis-2,6-dimethylpiperazine | 0.877 mMol, 100 mg, 3.0 equiv | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | N-(4-{1-[2-(4-Acetyl-3,5-dimethyl-piperazin-1-yl)-pyridin-4-yl]-5-amino-1H-[1,2,4]triazol-3-ylamino}-phenyl)-acetamide | 0.0323 mMol, 15 mg, 11% yield | C(C)(=O)N1C(CN(CC1C)C1=NC=CC(=C1)N1N=C(N=C1N)NC1=CC=C(C=C1)NC(C)=O)C | C23H29N9O2
